US05236952
21 g of 2-chloro-3-hydroxy-p-anisaldehyde oxime are heated under reflux for 20 hours together with 400 ml of acetic anhydride. Thereupon, the reaction mixture is evaporated, the residue is treated with 300 ml of ice-water, stirred for 1 hour, decanted, the thus-cooled residue is partitioned between methylene chloride and water, the organic phase is dried over sodium sulfate, evaporated, the residue is dried in a high vacuum, chromatographed on 200 g of silica gel with methylene chloride and recrystallized from methylene chloride/petroleum ether. There is obtained 2-chloro-3-cyano-6-methoxyphenyl acetate of m.p. 97°-99°.

reactant | 2-chloro-3-hydroxy-p-anisaldehyde oxime | 21 g | ClC1=C(C=NO)C=CC(=C1O)OC | C8H8ClNO3
reactant | acetic anhydride | 400 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-chloro-3-cyano-6-methoxyphenyl acetate | C(C)(=O)OC1=C(C(=CC=C1OC)C#N)Cl | C10H8ClNO3
